US07557114B2
(a) 5-Morpholin-4-yl-6-trifluoromethyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester
Prepared in analogy to Example A3(d) from 5-iodo-6-trifluoromethyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester (Example A35(d)) and morpholine. White solid. MS (m/e): 373.0 ([M+H]+, 100%).

reactant | 5-iodo-6-trifluoromethyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC(=C(C=C2C1)I)C(F)(F)F | C14H15F3INO2
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 5-Morpholin-4-yl-6-trifluoromethyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC(=C(C=C2C1)N1CCOCC1)C(F)(F)F | C18H23F3N2O3
